US07338959B2
To a solution of 1-Methyl-1H-benzoimidazole-2,5-diamine (0.63 g, 3.89 mmol) in THF (4 ml) and ethanol (12 ml) was added NaHCO3 (0.98 g, 11.67 mmol) and 2,4-dichloropyrimidine (1.45 g, 9.7 mmol) and the reaction was heated to 80° C. After 5 h, the reaction was filtered hot and concentrated to a gray foam. Ether was added and the solid was filtered and dried to give N5-(2-Chloro-pyrimidin-4-yl)-1-methyl-1H-benzoimidazole-2,5-diamine as an red solid. MS (ESI) m/z=275 [M+H]+.

reactant | 1-Methyl-1H-benzoimidazole-2,5-diamine | 3.89 mmol, 0.63 g | CN1C(=NC2=C1C=CC(=C2)N)N | C8H10N4
reactant | NaHCO3 | 11.67 mmol, 0.98 g | C(=O)(O)[O-].[Na+]
reactant | 2,4-dichloropyrimidine | 9.7 mmol, 1.45 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | N5-(2-Chloro-pyrimidin-4-yl)-1-methyl-1H-benzoimidazole-2,5-diamine | ClC1=NC=CC(=N1)NC1=CC2=C(N(C(=N2)N)C)C=C1 | C12H11ClN6
